US05969090
Preparation of (3-chloropropyl)dodecyldimethylammonium bromide
A two-liter, 3-necked, round-bottomed flask equipped with an air condenser and a magnetic stirring plate was charged with N,N-dimethyldodecylamine (297.24 grams, 1.40 moles), 1-bromo-3-chloropropane (220.44 grams, 1.40 moles) and methanol (250 mL). Reaction was maintained at 65° C. for 24 hours. Methanol was removed by rotary evaporation under reduced pressure to yield a brown sludge. To the sludge was added methyl-tert-butylether (2 liters) causing a white solid to form. The mixture was stirred for two hours and a semi-crystalline, white particulate was collected by vacuum filtration. The particulate was dried in a vacuum oven at 35° C. for 24 hours. Yield 228.2 grams (0.61 moles, 44%).

reactant | N,N-dimethyldodecylamine | 1.40 moles, 297.24 grams | CN(C)CCCCCCCCCCCC | C14H31N
reactant | 1-bromo-3-chloropropane | 1.40 moles, 220.44 grams | BrCCCCl | C3H6BrCl
reactant | methanol | 250 mL | CO | CH4O
solvent | methyl-tert-butylether | 2 liters | COC(C)(C)C | C5H12O
product | (3-chloropropyl)dodecyldimethylammonium bromide | [Br-].ClCCC[N+](C)(C)CCCCCCCCCCCC | InChI=1S/C17H37ClN.BrH/c1-4-5-6-7-8-9-10-11-12-13-16-19(2,3)17-14-15-18;/h4-17H2,1-3H3;1H/q+1;/p-1
